US05041602
2.14 g of p-hydroxybiphenylcarboxylic acid and 1.12 g of potassium hydroxide were dissolved in a mixture of 300 ml of ethanol and 40 ml of water. Then 3.02 ml of tetradecyl bromide was added thereto and the mixture was heated under reflux for 12 hours. Next, 13.5 ml of 2M hydrochloric acid was added to the reaction mixture and the crystals thus precipitated were filtered. Thus 2.20 g of 4'-n-tetradecyloxybiphenyl-4-carboxylic acid was obtained.

reactant | p-hydroxybiphenylcarboxylic acid | 2.14 g | OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C13H10O3
reactant | potassium hydroxide | 1.12 g | [OH-].[K+]
reactant | tetradecyl bromide | 3.02 ml | C(CCCCCCCCCCCCC)Br | C14H29Br
reactant | hydrochloric acid | 2M, 13.5 ml | Cl | ClH
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 4'-n-tetradecyloxybiphenyl-4-carboxylic acid | 2.20 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C27H38O3
